US08198456B2
12.36 g (3173 mmol) 5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-3-methyl-indazole-1-carboxylic acid tert-butyl ester, from Synthetic Example 15, were dissolved in 158 mL N,N-dimethylformamide. 1.62 g (40.61 mmol) sodium hydride (as a dispersion in mineral oil) were added and the mixture stirred for 20 minutes. 2.37 mL (38.08 mmol) methyl iodide were added and the mixture stirred for 2.5 hours. The solvent was distilled off under vacuum and the residue was taken up in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. Purification with column chromatography afforded 5-(3,5-dicyano-1,2,6-trimethyl-1,4-dihydro-pyridin-4-yl)-3-methyl-indazole-1-carboxylic acid tert-butyl ester (10.56 g, 82.5%). 1H-NMR (DMSO-D6): δ=8.06 (d, 1H), 7.67 (s, 1H), 7.56 (d, 1H), 4.56 (s, 1H), 3.22 (s, 3H), 2.54 (s, 3H), 2.25 (s, 6H), 1.64 (s, 9H) ppm. MS (ES+): 404.45 (M++1, 75%).

reactant | 5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-3-methyl-indazole-1-carboxylic acid tert-butyl ester | 3173 mmol, 12.36 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)C | C22H23N5O2
reactant | sodium hydride | 40.61 mmol, 1.62 g | [H-].[Na+]
reactant | methyl iodide | 38.08 mmol, 2.37 mL | CI | CH3I
solvent | N,N-dimethylformamide | 158 mL | CN(C=O)C | C3H7NO
product | 5-(3,5-dicyano-1,2,6-trimethyl-1,4-dihydro-pyridin-4-yl)-3-methyl-indazole-1-carboxylic acid tert-butyl ester | 10.56 g, 82.5% | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(N(C(=C1C#N)C)C)C)C#N)C | C23H25N5O2
